US07767691B2
Preparation of 4-[cyano(diphenyl)methyl]-1-[2-(1H-indol-2-yl)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide
Following the general procedure outlined in Example 24, 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile (0.044 g, 0.152 mmol) and 2-(2-bromoethyl)-1H-indole (0.0494 g, 0.220 mmol) in 2CH3CN/3CHCl3 (3.5 mL) were reacted to give the desired product (0.0340 g, 43.4%). EI-MS m/z 432 (M+) Rt (1.94 min).

reactant | 1-azabicyclo[2.2.1]hept-4-yl(diphenyl)acetonitrile | 0.152 mmol, 0.044 g | N12CCC(CC1)(C2)C(C#N)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H20N2
reactant | 2-(2-bromoethyl)-1H-indole | 0.220 mmol, 0.0494 g | BrCCC=1NC2=CC=CC=C2C1 | C10H10BrN
product | 4-[cyano(diphenyl)methyl]-1-[2-(1H-indol-2-yl)ethyl]-1-azoniabicyclo[2.2.1]heptane bromide | 0.0340 g, 43.4% | [Br-].C(#N)C(C12CC[N+](CC1)(C2)CCC=2NC1=CC=CC=C1C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H30N3.BrH/c31-22-30(25-10-3-1-4-11-25,26-12-5-2-6-13-26)29-16-19-33(23-29,20-17-29)18-15-27-21-24-9-7-8-14-28(24)32-27;/h1-14,21,32H,15-20,23H2;1H/q+1;/p-1
